US06525202B2
4-(1,4-Dioxa-8-aza-spiro[4.5]dec-8-yl)-phenylamine
A mixture of 8-(4-nitro-phenyl)-1,4-dioxa-8-aza-spiro[4.5]decane (Synthesis, 606, 1981) (3.5 g, 13.3 mmol) and 10% Pd/C (0.5 g) in 100 mL of ethanol/methylene chloride(2:1) was pressurized with 30 psi hydrogen and shaken over 1 hours. The catalyst was then removed by filtering through a short pad of silica gel to give the title compound (2.8g, 90%) as a grey solid; 1H NMR (300 MHz, DMSO-d6) δ 1.85-2.00 (m, 4H), 3.00-3.10 (m, 4H), 3.93 (s, 4H), 6.60 (d, J=6.0 Hz, 2H), 6.80 (d, J=6.0 Hz, 2H); MS (ES) m/z: 235.2 (MH+); HRMS Calcd. for C13H18N2O2: 234.1380. Found: 234.1371.

reactant | 8-(4-nitro-phenyl)-1,4-dioxa-8-aza-spiro[4.5]decane | 13.3 mmol, 3.5 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC2(OCCO2)CC1 | C13H16N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol methylene chloride | 100 mL | C(C)O.C(Cl)Cl
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 4-(1,4-Dioxa-8-aza-spiro[4.5]dec-8-yl)-phenylamine | 2.8g, 90% | O1CCOC12CCN(CC2)C2=CC=C(C=C2)N | C13H18N2O2
